US05252601
N-[[2-[(Acetylthio)methyl]-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine
Mix N-[[2-(mercaptomethyl)-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine (17.8 g, 67.2 mmol) and sulfuric acid (0.3 mL of a 10% solution in acetic acid). Add acetic anhydride (6.34 mL, 67.2 mmol) over 10 minutes. Allow to cool, pour into ethyl ether and wash with water three times. Separate the organic phase, dry (MgSO4) and evaporate the solvent in vacuo to give the title compound.

reactant | N-[[2-(mercaptomethyl)-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine | 67.2 mmol, 17.8 g | SCC1(CC2=CC=CC=C2C1)C(=O)NCC(=O)O | C13H15NO3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 67.2 mmol, 6.34 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[[2-[(Acetylthio)methyl]-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine | C(C)(=O)SCC1(CC2=CC=CC=C2C1)C(=O)NCC(=O)O | C15H17NO4S
